US05612377
1-Hydroxy-1-(1-methylethyl)-3-[4-(methylthio)phenyl]urea
N-Isopropylhydroxylamine hydrochloride (1.35 g, 12.1 mnmol) was dissolved in water (2 mL) then combined with diethyl ether (25 mL) followed by the addition of a solution of sodium hydroxide (0.48 g, 12.1 mmol) in water (2 mL). The reaction mixture was allowed to stir for several minutes then 4-(methylthio)phenyl isocyanate (2.0 g, 12.1 mmol) was added via pipette. A white precipitate formed. The reaction mixture was allowed to stir at ambient temperature overnight. The solid was isolated by filtration then dissolved in hot ethyl acetate. The ethyl acetate solution was dried over magnesium sulfate then concentrated under vacuum. The precipitate was collected and dried to afford 1.60 g of the desired product as a crystalline solid, m.p. 150.0°-150.3° C. Analysis: Calculated for C11H16N2O2S: %C, 54.98; %H, 6.71; %N, 11.66; Found: %C, 54.96; %H, 6.53; %N, 11.61.

reactant | N-Isopropylhydroxylamine hydrochloride | 1.35 g | Cl.C(C)(C)NO
reactant | diethyl ether | 25 mL | C(C)OCC | C4H10O
reactant | sodium hydroxide | 12.1 mmol, 0.48 g | [OH-].[Na+]
reactant | 4-(methylthio)phenyl isocyanate | 12.1 mmol, 2.0 g | CSC1=CC=C(C=C1)N=C=O | C8H7NOS
solvent | water | 2 mL | O | H2O
solvent | water | 2 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Hydroxy-1-(1-methylethyl)-3-[4-(methylthio)phenyl]urea | 1.60 g | ON(C(=O)NC1=CC=C(C=C1)SC)C(C)C | C11H16N2O2S
